datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1.[H][B-:11]([H])([H])[H:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1.[H][B:11]([H])[H] 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[N:12]1[CH:11]=[N:10][CH:61]=[CH:62]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:11]=[N+:12](C)[CH:62]=[CH:61]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH:10]2)O1.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH+:10]2[CH:20]([C:31]2=[CH:32][C:33]3=[C:34](N(C)CC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]2)O1 10=20
"C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1([N:10]1CCC[N+:12]2=[C:11]1[S:62]CC2)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=C(C#N)C=C2)[C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.C[N:12](C)[C:11](=[N:10]CC1=CC=CC=C1)[N:62](C)C>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([N:10](CC3=CC=CC=C3)[C:11](=[N+:12](C)C)[N:62](C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.C1C[CH:10]=[C:11]([N:12]2CCOCC2)C1>>C1C[CH:10]([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]23C4C5C6C2[Fe:42]56432789C3C2C7C8C39)[C:11](=[N+:12]2CCOCC2)C1 10,11=10,20;12=11,12"
"COC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>COC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CO/[C:10](=[C:11](/[O-:12])[O:62]C)[C:71](=[O:72])[O:82]C>>CO[C:10]([C:11](=[O:12])[O:62]C)([CH:20]1CC[C:22]([O-:23])=[CH:21]1)[C:71](=[O:72])[O:82]C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(CC2CCC[NH:10]2)C=C1.C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1>>C1=CC=C(CC2CCC[NH+:10]2[F:20])C=C1.C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"CC1C(C)[O:62][C:11]([H:10])([CH:72]=[CH2:73])[O:12]1.CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23]>>CC1C(C)[O:62][C:11]([CH:72]=[CH2:73])=[O+:12]1.CC[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC2=CC=CC=C21.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[Si:63](C)(C)[O+:12]=[C:11]1C2=CC=CC=C2C[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
C1C[N:10]2CCC1CC2.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]23CCC(CC2)CC3)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CN(C)C[C@@H]1CCC[NH:10]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CN(C)C[C@@H]1CCC[NH+:10]1[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10=20;20,21=21"
